### ISSUE TITLE
Zlib framing roundtrip infrastructure: pure decoder + BE byte lemma + theorem statement

### ISSUE THREAD

**Issue by kim-em** [kim-em/lean-zip#232]
**Session type**: implementation (Phase 4+ — zlib framing roundtrip)

## Current state

- Phase 4 complete — **zero sorries** across entire codebase
- `inflate_deflateRaw` proved: unified DEFLATE roundtrip for all levels
- Binary LE read/write roundtrip proofs exist in `BinaryCorrect.lean`:
  `readUInt32LE_bytes`, `readUInt32LE_append_right`, etc.
- Adler32 native↔spec bridge exists: `updateBytes_eq_updateList` in
  `Zip/Native/Adler32.lean` (line 25)
- Gzip infrastructure in progress (#227) — this is the zlib parallel
- No zlib framing specification or roundtrip work exists yet

## Goal

Write a pure single-stream zlib decoder function (avoiding `for`/`while`/`mut`)
and state the zlib roundtrip theorem:

```lean
ZlibDecode.decompressSingle (ZlibEncode.compress data level) = .ok data
```

Also prove a structural format lemma for `ZlibEncode.compress` and add
a big-endian UInt32 byte roundtrip lemma (needed for Adler32 trailer).

## Why this matters

- Natural next verification milestone after DEFLATE roundtrip, parallel
  to gzip (#227)
- Extends the verified pipeline from raw DEFLATE to zlib framing (RFC 1950)
- Building block for full-stack verified compression (many formats use zlib)
- Zlib framing is simpler than gzip (shorter header, no flags) so this
  may complete faster

## Why a pure decoder

`ZlibDecode.decompress` uses `let mut pos`, which prevents direct proof
unfolding. A pure single-stream decoder avoids this. The encoder always
sets FDICT=0 and uses a simple 2-byte header, so the pure decoder can
be straightforward.

### 1. Big-endian UInt32 byte roundtrip lemma

Add to `Zip/Spec/BinaryCorrect.lean`:

```lean
/-- Inline big-endian byte variant matching the zlib encoder Adler32 pattern. -/
theorem readUInt32BE_bytes (v : UInt32) :
    let b := ByteArray.mk #[
      ((v >>> 24) &&& 0xFF).toUInt8, ((v >>> 16) &&& 0xFF).toUInt8,
      ((v >>> 8) &&& 0xFF).toUInt8, (v &&& 0xFF).toUInt8]
    (b[0]!.toUInt32 <<< 24) ||| (b[1]!.toUInt32 <<< 16) |||
    (b[2]!.toUInt32 <<< 8) ||| b[3]!.toUInt32 = v := by
  simp only [ba4_getElem!_0, ba4_getElem!_1, ba4_getElem!_2, ba4_getElem!_3]
  bv_decide
```

This matches the inline big-endian reading pattern in `ZlibDecode.decompress`
(lines 131-135 of `Gzip.lean`). The private `ba4_getElem!_*` lemmas in
`BinaryCorrect.lean` may need to be changed from `private` to `protected`
or the new lemma placed alongside them.

Also add `readUInt32BE_append_right` for reading at an offset in
concatenated ByteArrays (needed for reading Adler32 from
`header ++ deflated ++ trailer`).

### 2. Pure single-stream zlib decoder + format lemma

Create `Zip/Spec/ZlibCorrect.lean` with:

**Pure decoder:**
```lean
def ZlibDecode.decompressSingle (data : ByteArray)
    (maxOutputSize : Nat := 256 * 1024 * 1024) :
    Except String ByteArray := do
  if data.size < 6 then throw "Zlib: input too short"
  let cmf := data[0]!
  let flg := data[1]!
  let check := cmf.toUInt16 * 256 + flg.toUInt16
  unless check % 31 == 0 do throw "Zlib: header check failed"
  unless cmf &&& 0x0F == 8 do throw "Zlib: unsupported compression method"
  unless cmf >>> 4 ≤ 7 do throw "Zlib: invalid window size"
  unless flg &&& 0x20 == 0 do throw "Zlib: preset dictionaries not supported"
  let (decompressed, endPos) ← Inflate.inflateRaw data 2 maxOutputSize
  if endPos + 4 > data.size then throw "Zlib: truncated trailer"
  -- Big-endian Adler32
  let b0 := data[endPos]!.toUInt32
  let b1 := data[endPos + 1]!.toUInt32
  let b2 := data[endPos + 2]!.toUInt32
  let b3 := data[endPos + 3]!.toUInt32
  let expectedAdler := (b0 <<< 24) ||| (b1 <<< 16) ||| (b2 <<< 8) ||| b3
  let actualAdler := Adler32.Native.adler32 1 decompressed
  unless actualAdler == expectedAdler do throw "Zlib: Adler32 mismatch"
  return decompressed
```

**Format lemma:** Prove structural properties of `ZlibEncode.compress`:
```lean
theorem zlib_compress_format (data : ByteArray) (level : UInt8) :
    let compressed := ZlibEncode.compress data level
    let deflated := Deflate.deflateRaw data level
    compressed.size = 6 + deflated.size
    ∧ compressed[0]! = 0x78  -- CMF: CM=8, CINFO=7
    ∧ (compressed[0]!.toUInt16 * 256 + compressed[1]!.toUInt16) % 31 == 0
    -- ... trailer is Adler32 of data in big-endian
```

This is mechanical: unfold `ZlibEncode.compress`, use ByteArray append
indexing to compute positions in `header ++ deflated ++ trailer`.

The `% 31 == 0` check for the header checksum is the trickiest part —
`ZlibEncode.compress` computes `fcheck` to make the checksum valid.
Proving `(cmf * 256 + (flevel ||| fcheck)) % 31 == 0` should work
via the explicit `fcheck` construction. May need `bv_decide` or `omega`.

### 3. Zlib roundtrip theorem (with sorry)

```lean
theorem zlib_decompressSingle_compress (data : ByteArray) (level : UInt8)
    (hsize : data.size < 5000000) :
    ZlibDecode.decompressSingle (ZlibEncode.compress data level) = .ok data := by
  sorry
```

The proof (for a follow-up issue) chains:
1. Header checks pass (from format lemma)
2. `inflateRaw` succeeds at position 2 (from `inflate_deflateRaw`)
3. Adler32 check passes via `readUInt32BE_bytes` + equal inputs
4. Return decompressed = data

## Files to create/modify

| File | Action |
|------|--------|
| `Zip/Spec/ZlibCorrect.lean` | **Create** — pure decoder + format lemma + roundtrip statement |
| `Zip/Spec/BinaryCorrect.lean` | Add big-endian byte roundtrip + append lemma |
| `Zip.lean` | Add `import Zip.Spec.ZlibCorrect` |
| `.claude/CLAUDE.md` | Add to source layout table |

## Proof strategy notes

- The header checksum `(CMF * 256 + FLG) % 31 == 0` is ensured by the
  encoder's `fcheck` computation. The proof should: unfold `compress`,
  expand the `fcheck` definition, then show the mod-31 check passes.
  This is arithmetic, likely `omega` or `decide` (since both CMF and
  FLEVEL are concrete values for each `if` branch).

- Zlib uses big-endian for the Adler32 trailer, unlike gzip's little-endian
  CRC32. The `readUInt32BE_bytes` lemma handles the byte-level roundtrip.

- The Adler32 check passes for the same reason as gzip's CRC32 check:
  `adler32 1 decompressed = adler32 1 data` follows from
  `decompressed = data` (which comes from the DEFLATE roundtrip).

- The `unless` guards expand to `if ¬cond then throw ... else ...` —
  same Except monad pattern as other proofs in the codebase.

## Done criteria

- `ZlibDecode.decompressSingle` compiles and type-checks
- `readUInt32BE_bytes` proved (no sorry)
- `zlib_compress_format` proved (no sorry)
- `zlib_decompressSingle_compress` stated with sorry
- Conformance: add a test verifying `decompressSingle` agrees with
  `decompress` on encoder output
- `lake build` passes
- `lake exe test` passes
- Sorry count: 1 (the roundtrip theorem)

## Verification

```bash
lake build
lake exe test
grep -rc sorry Zip/ | awk -F: '{s+=$2} END {print s}'  # should be 1
wc -l Zip/Spec/ZlibCorrect.lean  # expect ~80-120 lines
wc -l Zip/Spec/BinaryCorrect.lean  # expect ~150 lines
```

## Notes for the worker

- `ZlibEncode.compress` is pure (no `do` loops), so unfolding is
  straightforward
- The zlib header is only 2 bytes (vs gzip's 10), making the format
  lemma simpler
- The `fcheck` computation (`(31 - ((cmf * 256 + flevel) % 31)) % 31`)
  ensures the header checksum. When level varies, you'll need to case-split
  on the `if` branches for `flevel` (4 branches: level == 0, < 5, < 9,
  else). Each branch gives a concrete `flevel` value.
- `Adler32.Native.adler32 1 data` is the native computation. The initial
  value for Adler32 is 1 (not 0 like CRC32).
- Reuse `getElem!_append_left`/`getElem!_append_right` from
  `BinaryCorrect.lean` for concatenation indexing (they're private, so
  either inline or make them `protected`)
- Start with the BE roundtrip lemma (deliverable 1), then the pure
  decoder and format lemma (deliverable 2), then the theorem statement
  (deliverable 3)

**Comment by kim-em** [comment]
Session: `01726f47-9289-441f-beb6-0c1d2df326a4` Branch: `agent/ad0bf829`

**Comment by kim-em** [comment]
Claimed by session `3d7d1cae-4f50-4cd1-b9fd-8cb62c97dc89` on branch `agent/ad0bf829`
